US04547514
3-(2,3-Dichlorophenoxy)-N-(2-dimethylaminoethyl)-1-pyrrolidinecarboxamide
A solution 11.8 g (0.04 mole) of 3-(2,3-dichlorophenoxy)-1-pyrrolidinecarbonyl chloride in 50 ml of chloroform was stirred at 5° C. in an ice bath while the following were added in order: 25 g of ice, 5.52 g of potassium carbonate and 3.87 g (0.044 mole) of N,N-dimethylethylenediamine. The resulting mixture was stirred for 20 hours and worked up by adding additional water followed by separation of the organic phase. The chloroform solution was dried over magnesium sulfate, filtered and concentrated in vacuo to a dark amber oil, 14 g, which solidified on standing. TLC analysis (10% methanol/chloroform) showed 3 spots; therefore, the crude product was chromatographed on 50 g of Fluorisil. Elution with chloroform gave a dark forerun which was discarded, the main portion was collected and rechromatographed through a 50 g Florisil column. The column was washed with 200 ml of methanol and the 2 fractions (chloroform and methanol) were combined before concentrating on a rotary evaporator to give a light amber oil which solidified. Recrystallization from isopropyl ether gave a beige crystalline product; 4.5 g (34%), m.p. 94°-95° C.

reactant | 3-(2,3-dichlorophenoxy)-1-pyrrolidinecarbonyl chloride | 0.04 mole, 11.8 g | ClC1=C(OC2CN(CC2)C(=O)Cl)C=CC=C1Cl | C11H10Cl3NO2
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylethylenediamine | 0.044 mole, 3.87 g | CN(CCN)C | C4H12N2
reactant | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,3-Dichlorophenoxy)-N-(2-dimethylaminoethyl)-1-pyrrolidinecarboxamide | ClC1=C(OC2CN(CC2)C(=O)NCCN(C)C)C=CC=C1Cl | C15H21Cl2N3O2
